US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(3-((dimethylamino)methyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, (6-bromo-4-(3-((dimethylamino)methyl)phenylamino)quinoline-3-yl)(cyclopropyl)methanone (100 mg, 0.23 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (93 mg, 0.34 mmol) to afford the desired product (81 mg, 72%) as a yellow-green solid. 1H NMR (300 MHz, MeOD+TFA-d) δ 9.44 (s, 1H), 8.25 (dd, J=8.9, 1.9 Hz, 1H), 8.09-7.95 (m, 2H), 7.79-7.54 (m, 4H), 7.19 (dd, J=11.5, 2.3 Hz, 1H), 7.06 (s, 1H), 4.38 (s, 2H), 2.91-2.82 (m, 1H), 2.83 (s, 6H), 1.23-1.14 (m, 4H); ESI MS m/z 490 [C29H25ClFN3O2+H]+; HPLC 97.3% (AUC), tR=11.07 min.

reactant | (6-bromo-4-(3-((dimethylamino)methyl)phenylamino)quinoline-3-yl)(cyclopropyl)methanone | 0.23 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CN(C)C | C22H22BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.34 mmol, 93 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(3-((dimethylamino)methyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone | 81 mg, 72% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CN(C)C | C28H25ClFN3O2
